US07687491B2
(30c) 1-({6-Ethyl-5-[5-(3-fluoro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methyl)azetidine-3-carboxylic acid
The title compound (90 mg) was synthesized in a yield of 87% as a white crystalline solid by conducting the reaction similar to that mentioned in Example 3 (3e) using methyl 1-({6-ethyl-5-[5-(3-fluoro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methyl)azetidine-3-carboxylate (0.11 g, 0.24 mmol) that was obtained in Example 30 (30b) and a 1 N aqueous solution of sodium hydroxide (0.71 mL, 0.71 mmol).

reactant | methyl 1-({6-ethyl-5-[5-(3-fluoro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methyl)azetidine-3-carboxylate | 0.24 mmol, 0.11 g | C(C)C1=C(C=CC(=N1)CN1CC(C1)C(=O)OC)C1=NOC(=N1)C1=CC(=C(C=C1)CC(C)C)F | C25H29FN4O3
reactant | sodium hydroxide | 0.71 mmol, 0.71 mL | [OH-].[Na+]
product | 1-({6-Ethyl-5-[5-(3-fluoro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methyl)azetidine-3-carboxylic acid | 90 mg, yield of 87% | C(C)C1=C(C=CC(=N1)CN1CC(C1)C(=O)O)C1=NOC(=N1)C1=CC(=C(C=C1)CC(C)C)F | C24H27FN4O3
